US06777414B1
Thioxanthone (0.21 g) was dissolved in ethylene glycol (1.5 ml). Potassium hydroxide (0.19 g) and hydrazine monohydrate (0.15 ml) were added to the solution. The mixture was heated at 140° C. with stirring for 2 hr and then at 200° C. for 4 hr. The temperature of the reaction solution was returned to room temperature. Water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous MgSO4. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform) to give thioxanthene (0.12 g).

reactant | Thioxanthone | 0.21 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)=O | C13H8OS
reactant | Potassium hydroxide | 0.19 g | [OH-].[K+]
reactant | hydrazine monohydrate | 0.15 ml | O.NN
reactant | Water | O | H2O
solvent | ethylene glycol | 1.5 ml | C(CO)O | C2H6O2
product | thioxanthene | 0.12 g | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
